US08871796B2
Platinum (3% on carbon, poisoned with 0.6% vanadium, 24 mg, 3.8 mmol, 0.005 equiv) was added to a solution of 3-[1-ethyl-3-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-5-yl]benzonitrile (266 mg, 0.755 mmol, 1 equiv) in methanol (7.6 mL). The reaction flask was capped with a three way valve attached to a vacuum line and a hydrogen balloon. The reaction flask was alternately evacuated and charged with hydrogen for 3 cycles, and finally left under an atmosphere of hydrogen at 22° C. The reaction mixture was stirred for 40 minutes, then filtered through celite with the aid of methanol. Concentrated to afford 3-[3-(2-amino-4-fluorophenoxy)-1-ethyl-1H-pyrazol-5-yl]benzonitrile (243 mg, 90% pure) as a light-yellow solid. Calcd (M+1)+: 323.1. Found: 323.0.

reactant | 3-[1-ethyl-3-(4-fluoro-2-nitrophenoxy)-1H-pyrazol-5-yl]benzonitrile | 0.755 mmol, 266 mg, 1 equiv | C(C)N1N=C(C=C1C=1C=C(C#N)C=CC1)OC1=C(C=C(C=C1)F)[N+](=O)[O-] | C18H13FN4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 7.6 mL | CO | CH4O
catalyst | Platinum | 3.8 mmol, 24 mg, 0.005 equiv | [Pt] | Pt
product | 3-[3-(2-amino-4-fluorophenoxy)-1-ethyl-1H-pyrazol-5-yl]benzonitrile | 243 mg, 90% | NC1=C(OC2=NN(C(=C2)C=2C=C(C#N)C=CC2)CC)C=CC(=C1)F | C18H15FN4O
